US08426414B2
Part F: (1-{[[Trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-(4′-propyl-biphenyl-4-yl)-amino]-methyl}-cyclopentyl)-carbamic acid tert-butyl ester
A mixture of [1-({(4-Bromo-phenyl)-[trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-cyclopentyl]-carbamic acid t-butyl ester (95 mg, 0.18 mmol), arylboronic acid (0.22 mmol), Pd(PPh3)2Cl2 (14 mg, 0.02 mmol) and K2CO3 (47 mg, 0.34 mmol) in CH3CN/H2O (3.5/0.5 mL) was macrowaved at 140° C. for 20 min. The reaction mixture was passed through a short silica pad (EtOAc) and concentrated. The residue was subjected to ISCO (12 g column, 0-50% EtOAc in hexaneover 25 min) to give the desired products. MS (MH+ 572).

reactant | [1-({(4-Bromo-phenyl)-[trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-cyclopentyl]-carbamic acid t-butyl ester | 0.18 mmol, 95 mg | C(C)(C)(C)OC(NC1(CCCC1)CN(C(=O)[C@H]1[C@@H](C1)C1=NC(=CC=C1)F)C1=CC=C(C=C1)Br)=O | C26H31BrFN3O3
reactant | K2CO3 | 0.34 mmol, 47 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | CH3CN H2O | 0.5 mL | CC#N.O
catalyst | Pd(PPh3)2Cl2 | 0.02 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (1-{[[Trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-(4′-propyl-biphenyl-4-yl)-amino]-methyl}-cyclopentyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCCC1)CN(C1=CC=C(C=C1)C1=CC=C(C=C1)CCC)C(=O)[C@H]1[C@@H](C1)C1=NC(=CC=C1)F)=O | C35H42FN3O3
